US09340547B2
a) (S)-tert-Butyl 1-(2-(3,5-difluorophenylcarbamoyl)-1H-imidazol-1-ylamino)-1-oxopropan-2-ylcarbamate
1.60 g (6.18 mmol) of 1-amino-N-(3,5-difluorophenyl)-1H-imidazole-2-carboxamide, 1.64 g (8.65 mmol) of (S)-2-(tert-butoxycarbonylamino)butanoic acid and 1.34 g (8.65 mmol) of EDCHCl were dissolved in 45 mL of THF and stirred at 55° C. overnight and at room temperature for 2 days. Then the solvent was evaporated and the crude residue was taken up in ethyl acetate and washed with brine. The organic layer was dried over magnesium sulphate, filtered and the solvent was evaporated. The solid obtained was redissolved in the minimum amount of ethyl acetate and diisopropylether was added until a solid precipitated, which was filtered to furnish 1.51 g (57% yield) of the title compound.

reactant | 1-amino-N-(3,5-difluorophenyl)-1H-imidazole-2-carboxamide | 6.18 mmol, 1.60 g | NN1C(=NC=C1)C(=O)NC1=CC(=CC(=C1)F)F | C10H8F2N4O
reactant | (S)-2-(tert-butoxycarbonylamino)butanoic acid | 8.65 mmol, 1.64 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diisopropylether | C(C)(C)OC(C)C | C6H14O
product | (S)-tert-Butyl 1-(2-(3,5-difluorophenylcarbamoyl)-1H-imidazol-1-ylamino)-1-oxopropan-2-ylcarbamate | 1.51 g, 57% yield | FC=1C=C(C=C(C1)F)NC(=O)C=1N(C=CN1)NC([C@H](C)NC(OC(C)(C)C)=O)=O | C18H21F2N5O4
